US04490371
To a solution of ethyl 4-(3-formyl-4-nitrophenyl)oxybutyrate (65 g) in ethanol (400 ml) was added 3N NaOH (100 ml) in small portions. After 30 minutes at room temperature the reaction mixture was acidified with concentrated HCl and the ethanol evaporated. The aqueous residue was extracted with ethyl acetate (4×200 ml). The combined organic layers were washed with brine (2×200 ml), dried over Na2SO4, filtered and evaporated to give a light yellow solid. Trituration with ether afforded 4-(3-formyl-4-nitrophenyl)oxybutyric acid (55 g), m.p. 109°-110° C.

reactant | ethyl 4-(3-formyl-4-nitrophenyl)oxybutyrate | 65 g | C(=O)C=1C=C(C=CC1[N+](=O)[O-])OCCCC(=O)OCC | C13H15NO6
reactant | NaOH | 3N, 100 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4-(3-formyl-4-nitrophenyl)oxybutyric acid | 55 g | C(=O)C=1C=C(C=CC1[N+](=O)[O-])OCCCC(=O)O | C11H11NO6
